US07456169B2
3-bromo-5,10-dihydro-11H-dibenzo[b,e][1,4]diazepin-11-one
A mixture of 4-bromo-2-chlorobenzoic acid (2.35 g, 10 mmol), 1,2-benzenediamine (1.08 g, 10 mmol) and copper (0.63 g, 10 mmol) in chlorobenzene (150 mL) was heated to reflux for 48 hours and filtered. The filter cake was washed with ethyl acetate several times. The combined filtrates were concentrated under vacuum and the residue was purified by flash column chromatography on silica gel with 8:2 hexanes/ethyl acetate to provide 1.20 g (22%) of the desired product. MS (DCI) m/e 289 (M+H)+, 307 (M+NH4)+; 1H NMR (500 MHz, DMSO-d6) δ 9.90 (s, 1H), 8.02 (s, 1H), 7.62 (d, J=8.4 Hz, 1H), 7.24 (d, J=1.8 Hz, 1H), 7.06 (dd, J=8.4, 1.8 Hz, 1H), 6.92-6.95 (m, 5H).

reactant | 4-bromo-2-chlorobenzoic acid | 10 mmol, 2.35 g | BrC1=CC(=C(C(=O)O)C=C1)Cl | C7H4BrClO2
reactant | 1,2-benzenediamine | 10 mmol, 1.08 g | C=1(C(=CC=CC1)N)N | C6H8N2
solvent | chlorobenzene | 150 mL | ClC1=CC=CC=C1 | C6H5Cl
catalyst | copper | 10 mmol, 0.63 g | [Cu] | Cu
product | 3-bromo-5,10-dihydro-11H-dibenzo[b,e][1,4]diazepin-11-one | 1.20 g, 22% | BrC=1C=CC2=C(NC3=C(NC2=O)C=CC=C3)C1 | C13H9BrN2O
